US04757081
To 300 ml of toluene were added 9.1 g (0.040 mole) of N-(4-fluorophenyl)-1-phenylpropaneimine, 4.7 g (0.035 mole) of aluminum chloride and 5.2 g (0.030 mole) of ethyl phenylpropiolate, followed by refluxing the resultant mixture for 5 hours. Thereafter, the reaction mixture was poured into 500 ml of 2N sulfuric acid which had been ice-cooled, followed by extraction with chloroform. After washing the organic layer with water, the organic layer wad dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was purified by chromatography on a silica gel column (eluent: 1:50 mixed solvent of methanol and chloroform). The resultant crystals were recrystallized from a 1:1 mixed solvent of acetone and hexane to give 1.0 g of 1-(4-fluorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 256°-259° C.

reactant | N-(4-fluorophenyl)-1-phenylpropaneimine | 0.040 mole, 9.1 g | FC1=CC=C(C=C1)N=C(CC)C1=CC=CC=C1 | C15H14FN
reactant | aluminum chloride | 0.035 mole, 4.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl phenylpropiolate | 0.030 mole, 5.2 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | sulfuric acid | 2N, 500 ml | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-fluorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 1.0 g | FC1=CC=C(C=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C24H18FNO
